US20010023304A1
16.0 g of diethyl malonate was added to 27.3 g of carbon tetrachloride. Into the resultant mixture was dropped 16.4 g of bromine under stirring at room temperature. After the completion of the dropping, the mixture was heated to 80° C. and refluxed for 1 hour to thereby remove hydrogen bromide formed by the reaction. The liquid reaction mixture thus obtained was washed with a 5% aqueous solution of sodium carbonate and carbon tetrachloride was distilled off. Then distillation was carried out to give 19.1 g (yield: 80.0%) of diethyl bromomalonate.

reactant | diethyl malonate | 16.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | bromine | 16.4 g | BrBr | Br2
reactant | hydrogen bromide | Br | BrH
solvent | carbon tetrachloride | 27.3 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | diethyl bromomalonate | 19.1 g, yield: 80.0% | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
